US04460782
200 g of dimethyl itaconate are dissolved, together with 5.9 g of sodium methoxide, in 650 ml of methanol and the solution is left to stand for four days. The solution is then acidified with acetic acid and fractionally distilled. 240 g (83.4% of the theoretical yield) of dimethyl 2-methoxymethylsuccinate are obtained, at a boiling range of from 109° to 112° C. After the ester has been hydrolyzed with 2N HCl, the free acid is obtained in a yield of 80.3% of the theoretical yield.

reactant | dimethyl itaconate | 200 g | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | sodium methoxide | 5.9 g | C[O-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | 650 ml | CO | CH4O
product | dimethyl 2-methoxymethylsuccinate | yield of 80.3% | COCC(C(=O)OC)CC(=O)OC | C8H14O5
